US05118499
Quinoline-pyridine Copolymer
The product of Example 2 was redissolved in five milliliters of anhydrous pyridine, To this was added 74 millgrams of 2,6-diaminopyridine and the mixture was stirred at amient temperature for 18 hours. The reaction mixture was then stirred at 100° C. for two hours and allowd to cool to room temperature. The solvent was removed in a rotary evaporator and the produce was washed with methanol. 420 milligrams of the copolymer was obtained.

reactant | 2,6-diaminopyridine | NC1=NC(=CC=C1)N | C5H7N3
solvent | pyridine | five milliliters | N1=CC=CC=C1 | C5H5N
product | Quinoline pyridine | 420 milligrams | N1=CC=CC2=CC=CC=C12.N1=CC=CC=C1 | InChI=1S/C9H7N.C5H5N/c1-2-6-9-8(4-1)5-3-7-10-9;1-2-4-6-5-3-1/h1-7H;1-5H
